US05268389
Ethyl 3-[[(5,6-dihydro-2-methyl-1,4-oxathiin-3-yl) carbonyl]amino]-4-methylbenzoate (Compound 14)
Thionyl chloride (4.5 g, 0.038 mole) was added to a stirred mixture of 5,6-dihydro-2-methyl-1,4-oxathiin-3-carboxylic acid (6.0 g, 0.037 mole) and methylene chloride (100 ml . The mixture was warmed to 30°-35° C. for 3 hours, then evaporated under reduced pressure. The residue, crude 5,6-dihydro-2-methyl-1,4-oxathiin-3-carbonyl chloride, was dissolved in methylene chloride (100 ml), and the ice-chilled solution treated dropwise with a solution of ethyl 3-amino-4-methylbenzoate (6.7 g, 0.037 mole) and triethylamine (4.0 g, 0.040 mole) in methylene chloride (100 ml). The reaction mixture was stirred overnight at room temperature and then worked up by washing in sequence with water, dilute hydrochloric acid, water, 2% sodium hydroxide and water. Evaporation of the solvent gave an oil, which solidified. After recrystallization from ethanol (30 ml), the product (7.1 g, 59% yield) melted at 105°-107° C.

reactant | Thionyl chloride | 0.038 mole, 4.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | 5,6-dihydro-2-methyl-1,4-oxathiin-3-carboxylic acid | 0.037 mole, 6.0 g | CC=1OCCSC1C(=O)O | C6H8O3S
reactant | ethyl 3-amino-4-methylbenzoate | 0.037 mole, 6.7 g | NC=1C=C(C(=O)OCC)C=CC1C | C10H13NO2
reactant | triethylamine | 0.040 mole, 4.0 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 3-[[(5,6-dihydro-2-methyl-1,4-oxathiin-3-yl) carbonyl]amino]-4-methylbenzoate | 7.1 g, 59% yield | CC=1OCCSC1C(=O)NC=1C=C(C(=O)OCC)C=CC1C | C16H19NO4S
